.INCLUDE model28nm.spi

.SUBCKT inv In Out 1 0
M1  1 In Out 1 tp   L=56n W=56n AS=9.5f AD=9.5f PS=448n PD=448n
M2  Out In 0  0 tn L=56n W=112n AS=19f AD=19f PS=560n PD=560n
.ENDS inv

* Ring instantiation

x1 In      InOut12  1 0 inv
x2 InOut12 InOut23  1 0 inv
x3 InOut23 InOut34  1 0 inv
x4 InOut34 InvOut   1 0 inv
C1 InvOut  COut     1UF

VCC 1 0 DC 1.0V

Vin In 0 pwl(0ns 0 0.5ns 1 1ns 0 1.5ns 1)

.TRAN 0.5ns 1.5ns


.control
* Define Vth variations for NMOS (tn) and PMOS (tp)
let tn_variations = {-0.2, 0, +0.2}  * Adjust for desired Vth variations
let tp_variations = {-0.2, 0, +0.2}  * Adjust for desired Vth variations

foreach tn_v ($tn_variations) {
    foreach tp_v ($tp_variations) {
        * Apply Vth modifications for both NMOS and PMOS
        altermod @tn[vth0] = @tn[vth0] * (1 + tn_v)
        altermod @tp[vth0] = @tp[vth0] * (1 + tp_v)

        * Print the current Vth variations
        print "TN Vth variation: ", tn_v, " TP Vth variation: ", tp_v

        * Run the simulation
        run

        * Measure and print tpdr and tpdf for this Vth combination
        .measure tran tpdr trig v(InOut12) val=0.5 fall=1 targ v(InOut23) val=0.5 rise=1
        .measure tran tpdf trig v(InOut12) val=0.5 rise=1 targ v(InOut23) val=0.5 fall=1

        * Print the measured values of tpdr and tpdf
        print "tpdr for TN Vth variation: ", tn_v, " TP Vth variation: ", tp_v, " is ", tpdr
        print "tpdf for TN Vth variation: ", tn_v, " TP Vth variation: ", tp_v, " is ", tpdf
    }
}
.endc

.END
